US04780477
To a solution of 4.16 g of isatin and 6.06 g of 2-diisopropylamino-1-methylethyl chloride hydrochloride in 80 ml of dry N,N-dimethylformamide was added 2.28 g of sodium hydride (60% dispersion in mineral oil) with stirring under ice-cooling. The mixture was stirred for 30 minutes at room temperature and heated at 90° C. for 15 hours. The reaction mixture was concentrated under reduced pressure, and water was added to the residue. The mixture was extracted with ethyl acetate, and the ethyl acetate layer was washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was triturated with hexane and the precipitates were collected by filtration. The crystals were recrystallized from benzene-hexane to obtain 4.48 g of 1-(2-diisopropylaminopropyl)isatin having a melting point of 111°-112° C.

reactant | isatin | 4.16 g | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | 2-diisopropylamino-1-methylethyl chloride hydrochloride | 6.06 g | Cl.C(C)(C)N(CC(C)Cl)C(C)C
reactant | sodium hydride | 2.28 g | [H-].[Na+]
reactant | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 1-(2-diisopropylaminopropyl)isatin | 4.48 g | C(C)(C)N(C(CN1C(=O)C(=O)C2=CC=CC=C12)C)C(C)C | C17H24N2O2
